US06380430B1
Analogously to Example 1, by reaction of 3-cyanophenylboronic acid with methyl 3-bromo-5-methylbenzoate the compound methyl 3′-cyano-5-methylbiphenyl-3-carboxylate is obtained. By bromination with NBS and reaction with 3-hydroxybenzonitrile, methyl 3′-cyano-5-(3-cyanophenoxymethyl)biphenyl-3-carboxylate is obtained. Reaction with hydroxylamine and reduction using H2/Raney Ni affords the compound methyl 3′-carbamimidoyl-5-(3-carbamimidoylphenoxymethyl)biphenyl-3-carboxylate. By hydrolysis of the ester with aqueous NaOH, 3′-carbamimidoyl-5-(3-carbamimidoylphenoxymethyl)biphenyl-3-carboxylic acid

reactant | 3-cyanophenylboronic acid | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | methyl 3-bromo-5-methylbenzoate | BrC=1C=C(C(=O)OC)C=C(C1)C | C9H9BrO2
reactant | methyl 3′-cyano-5-methylbiphenyl-3-carboxylate | C(#N)C=1C=C(C=CC1)C1=CC(=CC(=C1)C)C(=O)OC | C16H13NO2
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 3-hydroxybenzonitrile | OC=1C=C(C#N)C=CC1 | C7H5NO
product | methyl 3′-cyano-5-(3-cyanophenoxymethyl)biphenyl-3-carboxylate | C(#N)C=1C=C(C=CC1)C1=CC(=CC(=C1)COC1=CC(=CC=C1)C#N)C(=O)OC | C23H16N2O3
